US06720338B2
ethyl 4-(4,4-dimethyl-2,6-dioxopiperidin-1-yl)benzoate
A solution of ethyl 4-aminobenzoate (1.0 g, 6.1 mmol) and 3,3-dimethylglutaric anhydride (0.95 g, 6.7 mmol) in 1,2-dichloroethane (15 mL) was heated to reflux for 1 hour, cooled to room temperature, and treated dropwise with acetyl chloride (0.88 mL, 12.5 mmol). The mixture was heated to reflux for 1 hour, cooled to room temperature, diluted with dichloromethane, washed sequentially with water, saturated NaHCO3, and brine, dried (MgSO4), filtered, and concentrated to provide the desired product. MS(DCI(+)) m/e 290 (M+H)+.

reactant | ethyl 4-aminobenzoate | 6.1 mmol, 1.0 g | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | 3,3-dimethylglutaric anhydride | 6.7 mmol, 0.95 g | CC1(CC(=O)OC(C1)=O)C | C7H10O3
reactant | acetyl chloride | 12.5 mmol, 0.88 mL | C(C)(=O)Cl | C2H3ClO
solvent | 1,2-dichloroethane | 15 mL | ClCCCl | C2H4Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | ethyl 4-(4,4-dimethyl-2,6-dioxopiperidin-1-yl)benzoate | CC1(CC(N(C(C1)=O)C1=CC=C(C(=O)OCC)C=C1)=O)C | C16H19NO4
